US05468761
Stage A: Ethyl 2-[(adamant-1-yl)carbonyloxy]acetoacetate
200 mmol of 1-adamantanecarboxylic acid are added to 100 mmol of sodium carbonate placed in 160 ml of DMF. The mixture is heated to 80° C. and then 200 mmol of ethyl 2-chloroacetoacetate in solution in 40 ml of DMF are added. The temperature and the stirring are maintained for three hours and then the mixture is left for 10 hours at room temperature. After evaporation of the DMF, the residue is taken up in 300 ml of water and 300 ml of ether. After extraction, drying and evaporation, the expected product is obtained in the form of an oil.

reactant | 1-adamantanecarboxylic acid | 200 mmol | C12(CC3CC(CC(C1)C3)C2)C(=O)O | C11H16O2
reactant | sodium carbonate | 100 mmol | C([O-])([O-])=O.[Na+].[Na+]
reactant | ethyl 2-chloroacetoacetate | 200 mmol | ClC(C(=O)OCC)C(=O)C | C6H9ClO3
solvent | DMF | 160 ml | CN(C)C=O | C3H7NO
solvent | DMF | 40 ml | CN(C)C=O | C3H7NO
product | Ethyl 2-[(adamant-1-yl)carbonyloxy]acetoacetate | C12(CC3CC(CC(C1)C3)C2)C(=O)OC(C(=O)OCC)C(=O)C | C17H24O5
